US09238632B2
4. Preparation of 4-chloro-5-methoxy-6-(piperazin-1-yl)pyrimidine
Piperazine (6.00 g, 70 mmol, 6.25 eq) is dissolved in water (30 ml), and to this solution is added 4,6-dichloro-5-methoxypyrimidine (2.00 g, 11.2 mmol, 1.0 eq). The mixture is stirred vigorously at room temperature for 2.0 h, during which 4,6-dichloro-5-methoxypyrimidine is gradually dissolved. The aqueous phase is extracted with CH2Cl2 (25 ml*2). The extracted liquids are combined, dried over anhydrous sodium sulfate and filtered by vacuum filtration, and concentrated to give a light yellow oily crude product (2.66 g).

reactant | Piperazine | 70 mmol, 6.00 g, 6.25 eq | N1CCNCC1 | C4H10N2
reactant | 4,6-dichloro-5-methoxypyrimidine | 11.2 mmol, 2.00 g, 1.0 eq | ClC1=NC=NC(=C1OC)Cl | C5H4Cl2N2O
solvent | water | 30 ml | O | H2O
product | 4-chloro-5-methoxy-6-(piperazin-1-yl)pyrimidine | 2.66 g | ClC1=NC=NC(=C1OC)N1CCNCC1 | C9H13ClN4O
